US04451462
A mixture of 1.8 g (6 mmoles) of 2-[2-hydroxy-5-methyl-4-(pyrrolidin-1-yl)-phenyl]-propionic acid pyrrolidide, 2 ml of glacial acetic acid and 2 ml of concentrated hydrochloric acid is boiled under reflux for 40 minutes. The reaction mixture is concentrated by evaporation in vacuo, water is added to the residue, the pH is adjusted to 5 with dilute sodium hydroxide solution and extraction with ether is carried out 3 times. The combined ethereal extracts are dried over sodium sulphate and concentrated in vacuo to 10 ml. 1.2 g (6 mmoles) of N,N'-dicyclohexylcarbodiimide are added thereto and the mixture is left at room temperature for one hour; the residue is filtered off, subsequently washed with ether, and the filtrate is concentrated by evaporation in vacuo. The residue is chromatographed over silica gel with petroleum ether/ether. Subsequent recrystallisation of the pure fractions from ether/petroleum ether yields 3,5-dimethyl-6-(pyrrolidin-1-yl)-benzofuran-2(3H)-one having a melting point of 68°-69°. The starting material can be obtained, for example, as follows:

reactant | 2-[2-hydroxy-5-methyl-4-(pyrrolidin-1-yl)-phenyl]-propionic acid pyrrolidide | 6 mmoles, 1.8 g | OC1=C(C=C(C(=C1)N1CCCC1)C)C(C(=O)N1CCCC1)C | C18H26N2O2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | N,N'-dicyclohexylcarbodiimide | 6 mmoles, 1.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-6-(pyrrolidin-1-yl)-benzofuran-2(3H)-one | CC1C(OC2=C1C=C(C(=C2)N2CCCC2)C)=O | C14H17NO2
